US04902794
In the manner given in Example 1, a solution of 1,3-dihydro-6-fluoro-5-(o-bromophenyl)-2H-1,4-benzodiazepine-2-thione in n-butyl alcohol was heated to reflux with methoxyacetic acid hydrazide to give 7-fluoro-1-(methoxymethyl)-6-(o-bromophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,3-dihydro-6-fluoro-5-(o-bromophenyl)-2H-1,4-benzodiazepine-2-thione | FC1=CC=CC2=C1C(=NCC(N2)=S)C2=C(C=CC=C2)Br | C15H10BrFN2S
reactant | methoxyacetic acid hydrazide | COCC(=O)NN | C3H8N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 7-fluoro-1-(methoxymethyl)-6-(o-bromophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC1=CC=CC2=C1C(=NCC=1N2C(=NN1)COC)C1=C(C=CC=C1)Br | C18H14BrFN4O
